US06451821B1
a suspension of 1.5 g of tert-butyl N-[(4RS)-4-(p-toluenesulphonyl-oxymethyl)-4,5-dihydro-2-thiazolyl]carbamate in 50 cm3 of acetonitrile is heated until the reagent has dissolved and 0.604 g of 4-mercaptopyridine is then added with stirring. After cooling to a temperature in the region of 20° C., 1.07 g of potassium carbonate are added. After stirring for 48 hours at a temperature in the region of 20° C., the reaction mixture is filtered. The filtrate is concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue obtained is taken up in ethyl acetate and water and the phases are separated after settling has taken place. The organic phase is washed with sodium chloride solution, dried over magnesium sulphate and chromatographed on a column of alumina, eluting with successive mixtures of ethyl acetate/cyclohexane (50/50 by volume). The fractions containing the expected product are purified by chromatography on a column of silica gel, eluting with ethyl acetate. The fractions containing the expected product are combined and then concentrated under the above conditions. 0.356 g of tert-butyl N-[(4RS)-4-(4-pyridylsulphanylmethyl)-4,5-dihydro-2-thiazolyl]carbamate is obtained in the form of a yellow oil [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.42 (s: 9H); 3.09 (dd, J=11.5 and 6 Hz: 1H); 3.29 (mt: 2H); 3.40 (dd, J=11.5 and 8 Hz: 1H); 4.25 (mt: 1H); 7.35 (dd, J=5 and 1.5 Hz: 2H); 8.40 (dd, J=5 and 1.5 Hz: 2H); from 9.70 to 10.00 (broad unresolved complex: 1H)]

reactant | tert-butyl N-[(4RS)-4-(p-toluenesulphonyl-oxymethyl)-4,5-dihydro-2-thiazolyl]carbamate | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1N=C(SC1)NC(OC(C)(C)C)=O)C | C16H22N2O5S2
reactant | 4-mercaptopyridine | 0.604 g | SC1=CC=NC=C1 | C5H5NS
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-[(4RS)-4-(4-pyridylsulphanylmethyl)-4,5-dihydro-2-thiazolyl]carbamate | 0.356 g | N1=CC=C(C=C1)SCC1N=C(SC1)NC(OC(C)(C)C)=O | C14H19N3O2S2
